US07244542B2
The synthesis of 6-hydroxy-2-vinylnaphthalene (HVN) was carried out by three step reactions starting from 6-hydroxy-2-naphthaldehyde. In the first step, 6-hydroxy-2-naphthaldeyde (HNAL) was protected with ethyl vinyl ether to give 6-(1-ethoxy ethoxy)-2-naphthaldehyde (EENAL). This was followed by the Wittig reaction of EENAL to yield 6-(1-ethoxy ethoxy)-2-vinylnaphthalene. Finally, this was deprotected using pyridinium p-toluenesulfonate to yield 6-hydroxy-2-vinylnaphthalene (HVN).

reactant | 6-hydroxy-2-vinylnaphthalene | OC=1C=C2C=CC(=CC2=CC1)C=C | C12H10O
reactant | 6-hydroxy-2-naphthaldehyde | OC=1C=C2C=CC(=CC2=CC1)C=O | C11H8O2
reactant | ethyl vinyl ether | C(=C)OCC | C4H8O
product | 6-(1-ethoxy ethoxy)-2-naphthaldehyde | C(C)OC(C)OC=1C=C2C=CC(=CC2=CC1)C=O | C15H16O3
